US06638929B2
A mixture of 1.10 g (3.17 mmol) of 4-chloro-7-methoxy-8-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile and 4-chloro-8-methoxy-7-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile (1:1 mixture), 50 mg of pyridine hydrochloride, 742 mg (3.86 mmol) of 2,4-dichloro-5-methoxyaniline and 25 mL of 2-ethoxyethanol is stirred and heated to 135° C. After 1 hour, the reaction is cooled to room temperature, quenched with 1.0 mL of triethylamine and concentrated in vacuo. The residue is dissolved in 95:5 methylene chloride/methanol and chromatographed on silica gel, eluting with 1:1 hexane/ethyl acetate. The product is precipitated from ethyl acetate to provide 0.760 g (48%) of 4-(2,4-dichloro-5-methoxyanilino)-7-methoxy-8-(chloroethoxy)benzo[g]quinoline-3-carbonitrile and 4-(2,4-dichloro-5-methoxyanilino)-8-methoxy-7(chloroethoxy)benzo[g]quinoline-3-carbonitrile (1:1 mixture) as a dull yellow solid, m.p. 239-55° C. dec.

reactant | 4-chloro-7-methoxy-8-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile | 3.17 mmol, 1.10 g | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OCCCl)OC)C#N | C17H12Cl2N2O2
reactant | 4-chloro-8-methoxy-7-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OC)OCCCl)C#N | C17H12Cl2N2O2
reactant | pyridine hydrochloride | 50 mg | Cl.N1=CC=CC=C1
reactant | 2,4-dichloro-5-methoxyaniline | 3.86 mmol, 742 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | 2-ethoxyethanol | 25 mL | C(C)OCCO | C4H10O2
product | 4-(2,4-dichloro-5-methoxyanilino)-7-methoxy-8-(chloroethoxy)benzo[g]quinoline-3-carbonitrile | 0.760 g, 48% | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C(=C4)OCCCl)OC)C#N)C=C(C(=C1)Cl)OC | C24H18Cl3N3O3
